US06069176
3-(4-Methoxyphenyl) cyclopentanone (7.37 g) and benzylamine (4.15 g) were refluxed for 1.25 hours in benzene (150 ml) in the presence of p-toluenesulfonic acid (820 mg) using a Dean-Stark apparatus while removing the water generated. After distilling off the benzene under reduced pressure, it was dissolved in methanol (150 ml) while cooling on ice, sodium borohydride (1.63 g) was gradually added and the mixture was stirred at room temperature for 12.5 hours. After concentrating the reaction solution, water was added, and extraction with chloroform was followed by washing with saturated sodium bicarbonate water and saturated saline. After drying with anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure to produce a light yellow oily substance which was then purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1) to give 10.0 g of N-benzyl-N-[3-(4-methoxyphenyl)cyclopentyl]amine (91.7% yield).

reactant | 3-(4-Methoxyphenyl) cyclopentanone | 7.37 g | COC1=CC=C(C=C1)C1CC(CC1)=O | C12H14O2
reactant | benzylamine | 4.15 g | C(C1=CC=CC=C1)N | C7H9N
reactant | p-toluenesulfonic acid | 820 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | N-benzyl-N-[3-(4-methoxyphenyl)cyclopentyl]amine | 10.0 g, 91.7% yield | C(C1=CC=CC=C1)NC1CC(CC1)C1=CC=C(C=C1)OC | C19H23NO
